US03984467
1-(4-Chlorophenyl)-3-(heptanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 3.9 g. sodium in 300 ml. dry acetone, 24.6 g. heptanamidine hydrochloride, and 23 g. 4-chlorophenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from acetonitrile 29.8 g. of the hydrochloride of 1-(4-chlorophenyl)-3-(heptanimidoyl)urea; m.p. 168°-169°C.

reactant | sodium | [Na] | Na
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-3-(heptanimidoyl)urea | ClC1=CC=C(C=C1)NC(=O)NC(CCCCCC)=N | C14H20ClN3O
